US04208514
In a similar manner 12 g of 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide was caused to react with 7.28 g of diethylcarbamoyl chloride in the presence of 14 ml of triethylamine. The crude product was crystallized from methanol to afford 12.4 g of N,N-diethyl-3,4-dihydro-3-(1-methylethyl)-4-oxo-1H-2,1,3-benzothiadiazine-1-carboxamide, m.p. 103°-104.5° C.

reactant | 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide | 12 g | CC(C)N1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C10H12N2O3S
reactant | diethylcarbamoyl chloride | 7.28 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
product | N,N-diethyl-3,4-dihydro-3-(1-methylethyl)-4-oxo-1H-2,1,3-benzothiadiazine-1-carboxamide | 12.4 g | C(C)N(C(=O)N1SN(C(C2=C1C=CC=C2)=O)C(C)C)CC | C15H21N3O2S
